US09260441B2
Step B: 4-Methyl-5-piperazin-1-yl-thiazole dihydrochloride
To a solution of tert-butyl 4-(4-methylthiazol-5-yl)piperazine-1-carboxylate (265 mg, 0.935 mmol) in diethyl ether (10 mL) was added HCl (4N in dioxane, 4.5 mL, 18 mmol) after which a precipitate formed immediately. 1,4-Dioxane (5 mL) was added to dissolve the precipitate. The mixture was stirred at room temperature for three days after which additional HCl (4N in dioxane, 5 mL, 20 mmol) and methanol (5 ml) was added. Stirring was continued for another day, the precipitate formed was collected by filtration, washed with diethylether and dried under reduced pressure to yield 208 mg of a yellow solid (0.812 mmol, 87%). MS (ESI) m/z=184.1 [M+1]+.

reactant | tert-butyl 4-(4-methylthiazol-5-yl)piperazine-1-carboxylate | 0.935 mmol, 265 mg | CC=1N=CSC1N1CCN(CC1)C(=O)OC(C)(C)C | C13H21N3O2S
reactant | HCl | 18 mmol, 4N, 4.5 mL | Cl | ClH
reactant | 1,4-Dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 20 mmol, 4N, 5 mL | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 4-Methyl-5-piperazin-1-yl-thiazole dihydrochloride | 0.812 mmol, 208 mg, 87% | Cl.Cl.CC=1N=CSC1N1CCNCC1 | InChI=1S/C8H13N3S.2ClH/c1-7-8(12-6-10-7)11-4-2-9-3-5-11;;/h6,9H,2-5H2,1H3;2*1H
